US07547691B2
(A). Preparation of 2-[3-(4-isopropylpiperazin-1-yl)-propyl]-isoindole-1,3-dione
N-(3-Bromopropyl)phthalimide (16.7 g, 62.4 mmol) is added to a stirred solution of 1-isopropyl-piperazine (8.00 g, 62.4 mmol) and diisopropylethylamine (8.06 g, 62.4 mmol) in anhydrous 1,4-dioxane (300 mL). The resultant mixture is heated in an oil bath at 90° C. for 20 hours. At ambient temperature, chloroform (300 mL) and half-saturated aqueous NaCl (200 mL) are added to the mixture. The organic layer is separated, dried over magnesium sulfate, filtered, and concentrated. The crude oil is subjected to chromatography on silica gel and eluted with 2 M NH3/CH3OH in dichloromethane 0-5% to provide the title compound as a tan oil (17.4 g, 87% yield).

reactant | N-(3-Bromopropyl)phthalimide | 62.4 mmol, 16.7 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | 1-isopropyl-piperazine | 62.4 mmol, 8.00 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | diisopropylethylamine | 62.4 mmol, 8.06 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaCl | 200 mL | [Na+].[Cl-]
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(4-isopropylpiperazin-1-yl)-propyl]-isoindole-1,3-dione | 17.4 g, 87% yield | C(C)(C)N1CCN(CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C18H25N3O2
